US08247595B2
To a solution of 3.0 g of 3-trifluoromethyl-2-pentenyl p-toluenesulfonate and 2.3 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 50 ml of N,N-dimethylformamide was added 0.4 g of sodium hydride (60% in oil) at room temperature. The reaction mixture was stirred at the same temperature for 10 hours, at 60° C. for 6 hours and then at 90° C. for 1 hour. The reaction mixture was allowed to stand to cool to nearly room temperature. To the reaction mixture was added 10% hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 1.86 μg of methyl 5-trifluoromethyl-2-(3,3,3-trifluoropropylsulfonyl)-4-heptenoate (hereinafter referred to as the present compound (36)) as a mixture of (E) and (Z) isomers.

reactant | 3-trifluoromethyl-2-pentenyl p-toluenesulfonate | 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCC=C(CC)C(F)(F)F)C | C13H15F3O3S
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.3 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 5-trifluoromethyl-2-(3,3,3-trifluoropropylsulfonyl)-4-heptenoate | 1.86 μg | FC(C(=CCC(C(=O)OC)S(=O)(=O)CCC(F)(F)F)CC)(F)F | C12H16F6O4S
